US09168245B2
A solution of 4-bromo-2-fluorobenzonitrile (5.00 g, 25 mmol) in dry THF (50 mL) at −10° C. under argon was treated with a solution of isopropylmagnesium chloride (2M in THF, 15.0 mL, 30.0 mmol) dropwise before stirring at this temperature for 3 h. A solution of N-formylpiperidine (3.89 g, 35.0 mmol) in dry THF (15 mL) was added dropwise and the mixture allowed to warm to room temperature before stirring for 1.5 h. The resultant solution was treated with 4M aq HCl (250 mL each) and the organics extracted with EtOAc. The combined organics were dried (MgSO4), filtered and evaporated before purification of the residue by column chromatography (SiO2; eluting with 30% to 50% EtOAc in cyclohexane) to afford 2-fluoro-4-formyl-benzonitrile VII-a as a pale yellow solid (2.73 g, 73%). 1H NMR (300 MHz, CDCl3) δ 10.07 (d, J=1.7 Hz, 1H), 7.90-7.79 (m, 2H), 7.74 (dd, J=8.5, 0.8 Hz, 1H).

reactant | 4-bromo-2-fluorobenzonitrile | 25 mmol, 5.00 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | isopropylmagnesium chloride | 30.0 mmol, 2M, 15.0 mL | C(C)(C)[Mg]Cl
reactant | N-formylpiperidine | 35.0 mmol, 3.89 g | C(=O)N1CCCCC1 | C6H11NO
reactant | HCl | 4M, 250 mL | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-fluoro-4-formyl-benzonitrile | FC1=C(C#N)C=CC(=C1)C=O | C8H4FNO
